US05376102
L-Lactide-Trimethylene Carbonate Block Copolymer
Polymerization grade 1,3-dioxan-2-one (trimethylene carbonate, hereafter abbreviated TMC) (97.5 g, 0.995 mole), diethylene glycol (hereafter abbreviated DEG) (4.20×10-2 g, 4.0×10-4 mole), and Dabco T-9 catalyst (a stannous 2-ethylhexanoate catalyst formulation sold by Air Products, Inc., hereafter abbreviated T-9) (1.35×10-2 g, 3.3×10-5 moles) were combined in a stirred reactor at 182° C. The temperature was raised to 188° C. and the mixture was stirred for 11/2 hours at this temperature. Polymerization grade l-lactide (52.5 g, 0.364 mole) was added and the temperature was increased to 200° C. After 45 minutes, the polymer was discharged from the reactor and allowed to solidify.

reactant | Trimethylene carbonate | 0.995 mole, 97.5 g | C1(OCCCO1)=O | C4H6O3
reactant | diethylene glycol | 4.0×10-4 mole, 4.20×10-2 g | C(COCCO)O | C4H10O3
reactant | Dabco | C1CN2CCN1CC2 | C6H12N2
reactant | l-lactide | 0.364 mole, 52.5 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
product | L-Lactide Trimethylene Carbonate | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1(OCCCO1)=O | InChI=1S/C6H8O4.C4H6O3/c1-3-5(7)10-4(2)6(8)9-3;5-4-6-2-1-3-7-4/h3-4H,1-2H3;1-3H2/t3-,4-;/m0./s1
